US05914324
A solution of 3β-tert-butyldimethylsilyloxy-5α-androstan-6α,17β-diol (II-a, Prep. 1, 10 g), chloromethyl ethyl ether (16 mL) and di-iso-propylethylamine (120 mL) in dry dichloromethane (500 mL) was stirred overnight at 0° C. Citric acid (10% water solution, 1.5 L) was added, the organic layer separated, washed with water and dried over anhydrous sodium sulfate. The solvent was removed in vacuo. The residue was purified by chromatography (hexane/ethyl acetate 85/15) to give 10.8 g of 3β-tert-butyldimethylsilyloxy-6α,17β-di-ethoxymethoxy-5α-androstane. 1H-NMR (300 MHz, CDCl3, ppm from TMS): 4.60 (4H, m), 3.70-3.40 (7H, m), 2.20-0.6 (41H, m), 0.03 (6H, s).

reactant | 3β-tert-butyldimethylsilyloxy-5α-androstan-6α,17β-diol | 10 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@@H]2[C@H](C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O)O | C25H46O3Si
reactant | chloromethyl ethyl ether | 16 mL | C(C)OCCl | C3H7ClO
reactant | di-iso-propylethylamine | 120 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Citric acid | 1.5 L | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 3β-tert-butyldimethylsilyloxy-6α,17β-di-ethoxymethoxy-5α-androstane | 10.8 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@@H]2[C@H](C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)OCOCC)OCOCC | C31H58O5Si
